US05436240
Triethylamine (20 g, 0.2 mol) and propionic anhydride (12.54 g, 0.096 mol) were added to diethyl aminomalonate hydrochloride (20.40 g, 0.096 mol) in THF (300 mL) and the reaction was stirred at room temperature for 45 minutes. The solvent was removed under reduced pressure and the crude product was partitioned between ethyl acetate and water. The ethyl acetate phase was separated and evaporated to give 34.64 g of whim solid. This was dissolved in hot ethyl acetate (60 mL), hexane (60 mL) was added, and the solution was filtered to remove insoluble material. The solution was cooled to -10° C. and filtered to give 17.63 g (72%) of diethyl (1-oxopropyl)malonate, mp 89°-93° C.

reactant | Triethylamine | 0.2 mol, 20 g | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.096 mol, 12.54 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | diethyl aminomalonate hydrochloride | 0.096 mol, 20.40 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | hexane | 60 mL | CCCCCC | C6H14
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | diethyl (1-oxopropyl)malonate | 17.63 g, 72% | O=C(CC)C(C(=O)OCC)C(=O)OCC | C10H16O5
